### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Decomposition): link the clipped sub of positive measures to Jordan decomposition

### PR DESCRIPTION
**Pull request by DrLSimon**
This introduces a new file `Mathlib/MeasureTheory/Decomposition/JordanSub.lean` which develops the Jordan decomposition of the signed measure `μ.toSignedMeasure - ν.toSignedMeasure` for finite measures `μ`
and `ν`, expressing it as the pair `(μ - ν, ν - μ)` of mutually singular finite measures.

The key tool is the Hahn decomposition theorem, which yields a measurable partition of the space
where `μ ≥ ν` and `ν ≥ μ`.

Some basic results of `VectorMeasure` are also provided such as `restrict_neg`, `restrict_sub` `restrict_add_restrict_compl` and `Measure.toSignedMeasure_le_iff`  within the `JordanSub.lean` file. They could be moved to another more central place (I guess `VectorMeasure/Basic.lean`). Similarly, `Measure.sub_zero` could go to `Sub.lean`. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by DrLSimon** [comment]
Apologies for the early pull request : forgot to do the CI check first). Should be ok now.

**Comment by grunweg** [comment]
Thanks for your PR. Can you merge the master branch, please? Right now, your PR has a merge conflict, meaning it won't show up in the review queue.

**Comment by DrLSimon** [comment]
@grunweg I've added the label `help-wanted` because I'm not sure how to handle the conflict. There seems to have been a heavy refactoring since I made my pull request. Hopefully someone can help merging my branch with the new master.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 1]
```diff
@@ -0,0 +1,264 @@
...
+namespace MeasureTheory
+
+noncomputable section
+
+variable {α : Type*} [m : MeasurableSpace α]
+variable {s : Set α}
+variable {μ ν : Measure α} [hμ : IsFiniteMeasure μ] [hν : IsFiniteMeasure ν]
+
+namespace Measure
+/-- The set where `μ ≥ ν`, defined via measurable set and measure restriction comparisons. -/
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:53]:
```suggestion
namespace Measure

/-- The set where `μ ≥ ν`, defined via measurable set and measure restriction comparisons. -/
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 2]
```diff
@@ -0,0 +1,264 @@
...
+  measurable : MeasurableSet s
+  ge_on : ν.restrict s ≤ μ.restrict s
+  ge_on_compl : μ.restrict sᶜ ≤ ν.restrict sᶜ
+
+instance SetWhereGe.compl_symm {μ ν : Measure α} {s : Set α}
+    [h : SetWhereGe μ ν s] : SetWhereGe ν μ sᶜ where
+  measurable := h.measurable.compl
+  ge_on := h.ge_on_compl
+  ge_on_compl := by rw [compl_compl]; exact h.ge_on
+end Measure
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:64]:
```suggestion
  ge_on_compl := by rw [compl_compl]; exact h.ge_on
 
end Measure
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 3]
```diff
@@ -0,0 +1,264 @@
...
+
+noncomputable section
+
+variable {α : Type*} [m : MeasurableSpace α]
+variable {s : Set α}
+variable {μ ν : Measure α} [hμ : IsFiniteMeasure μ] [hν : IsFiniteMeasure ν]
+
+namespace Measure
+/-- The set where `μ ≥ ν`, defined via measurable set and measure restriction comparisons. -/
+class SetWhereGe (μ ν : Measure α) (s : Set α) : Prop where
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:54]: I am not sure about the design here. First, you have `SignedMeasure.SetWhereGe` and `Measure.SetWhereGe`, and you prove that they are equivalent so I think you should just keep one of them (probably the `Measure` version).

Second, I actually think that this typeclass is not really useful. What you are interested in is the fact that there exists a set which satisfies the property as you prove in `exists_SetWhereGeSignedMeasure`, but having general results for sets which satisfy this property does not seem very useful to me. I think the file would gain in clarity if you simply defined a set `restrictLeRestrictSet` (or another name) using `Exists.choose` and prove the properties of `SetWhereGe` for this particular set.

Third, in Mathlib we prefer to express inequalities using "le" and `≤` to have something uniform over all the library.

**Review by EtienneC30 — COMMENTED** [review]
Thank you for your contribution! I am a bit concerned by your choice of design. What do you think of my suggestion? Don't hesitate to ask questions if my comments are not clear to you.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 4]
```diff
@@ -0,0 +1,264 @@
...
+- `sᶜ` : Complement of a measurable set `s`.
+-/
+
+open scoped MeasureTheory ENNReal NNReal
+
+namespace MeasureTheory
+
+noncomputable section
+
+variable {α : Type*} [m : MeasurableSpace α]
```
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:48]: I think there is a typo in the renaming : `variable {X : Type*} {mX : MeasurableSpace α}` the `α` should be replaced by `X` ?

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 5]
```diff
@@ -0,0 +1,264 @@
...
+variable {s : Set α}
+variable {μ ν : Measure α} [hμ : IsFiniteMeasure μ] [hν : IsFiniteMeasure ν]
```
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:50]: Should all `α` be replaced by `X` ?

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 3 above)
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:54]: Well, as I recall, I needed the equivalence somewhere, as an intermediary result. It's plausible that the proof can be refactored differently.

Considering the "le" convention, do you mean that I should rename as `SetWhereLe` ?

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 2 above)
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:64]: Ok, thanks.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 3 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:54]: You will note that you don't use the equivalence result after you proved it 😉
The definition of `SetWhereGe` is fine (regarding conventions I mean), but indeed the name should be changed and the docstring too. But as I explained I feel this definition should go away.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 6]
```diff
@@ -0,0 +1,264 @@
...
+
+## Notations
+
+- `μ - ν` : Subtraction of finite measures i.e. the least measure `τ` such that `μ ≤ τ + ν`.
+
+  It is the equivalent of `(μ - ν) ⊔ 0` if `μ` and `ν` were signed measures.
+- `μ.restrict s` : Restriction of a measure `μ` to the set `s`.
+- `μ.toSignedMeasure` : Signed measure corresponding to `μ`.
+- `0 ≤[s] μ` : The signed measure `μ` is nonnegative on the set `s`.
+- `sᶜ` : Complement of a measurable set `s`.
```
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:39]: Once you have addressed all the comments (either because you applied them and resolved the conversation or because you are note sure of what to do and are waiting for an answer), you can remove the awaiting-author label. I get a notification for each commit you make and each message you write so there is no need to ping me when you're done (I'm just saying it in case you were wondering).

[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:39]: Ok, thank you. I think I get the workflow now.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:48]: I've always used `\Omega` for measurable space and `\mathcal A` for the sigma algebra, but that's a matter of personal preference. We can't make everyone happy in  concerns related to notations.  I'll stick to your proposal which is quite fine in truth. I'll make the change on my computer tomorrow, so that I can test nothing is broken before committing.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 3 above)
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:54]: Well, it's true that I don't rely on the full equivalence, just one implication. Basically the equivalence is merely a summary of `ofSignedMeasure_setWhereGe` and `toSignedMeasure_setWhereGe`, and truly I use only the `ofSignedMeasure_setWhereGe` part of it. This result in turn is naturally expressed in terms of `Measure.SetWhereGe` and `SignedMeasure.SetWhereGe`. Therefore, I feel that keeping both definitions makes sense.

W.r.t proving the full equivalence, even though you are right that it is not needed to get the main result, I would still keep it, as it could be useful for other purposes.  I might be biased there, because I had hard time to swap back and forth between related notions defined in SignedMeasure and in Measure. That may be due to my recent learning of Lean. Anyway, I'm open to refactoring suggestions if you think it's really needed. For my part, I'm quite happy with the full equivalence statement to be totally honest with you (again probably a matter of persona preference).

Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean]: I've integrated and committed all the changes that I marked as resolved earlier (notations / vertical spacing).  I've also renamed the SetWhereGe as SetWhereLe and used that occasion to improve the attribute naming there as well. I actually also had to perform some basic symmetry between \mu and \nu in the proofs to keep the notations consistent, I mean so that `SetWhereLe \mu \nu` means `\mu \le \nu` on the set and not `\nu \le \mu`.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean]: I gave this a bit of thought, and in the end I think this is worth having.

Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean]: Perfect. Let me know if I need to do anything else. Best.

**Review by EtienneC30 — COMMENTED** [review]
Here are a few comments.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 7]
```diff
@@ -0,0 +1,256 @@
...
+noncomputable section
+
+variable {X : Type*} {mX : MeasurableSpace X}
+variable {s : Set X}
+variable {μ ν : Measure X} [IsFiniteMeasure μ] [IsFiniteMeasure ν]
+
+namespace Measure
+
+/-- The set where `μ ≤ ν`, defined via measurable set and measure restriction comparisons. -/
+class SetWhereLe (μ ν : Measure X) (s : Set X) : Prop where
```
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:45]: I guess that depends on how you consider the matter: SetWhereLe \mu \nu refers to the standard notation {\mu \le \nu} which can be defined up to (\mu-nu) totally null sets using the Hanh decomposition approach used in this file (it could be also defined from Radon-Nikodym derivatives). With this in mind, I think the name is quite natural.

If you want the name to reflect the precise Lean definition, then your name makes sense. Yet, it is not the choice I would make : I would rather use the name that refers to the natural way of naming the notion.

[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:45]: I am  suggesting this name because of the [naming convention](https://leanprover-community.github.io/contribute/naming.html#identifiers-and-theorem-names) which indicates that definitions and theorems should be named by "the way they are read". As this is a structure I guess it is not as straightforward. I will ask in the dedicated [Zulip channel](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Naming.20convention).

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 8]
```diff
@@ -0,0 +1,256 @@
...
+    simp only [toSignedMeasure_apply, hA, ↓reduceIte, ne_eq, measure_ne_top,
+      not_false_eq_true, ENNReal.toReal_le_toReal] at h
+    exact h
+  · intro h A hA
+    simp only [toSignedMeasure_apply, hA, ↓reduceIte, ne_eq, measure_ne_top, not_false_eq_true,
+      ENNReal.toReal_le_toReal]
+    exact h A
+
+@[simp]
+theorem sub_zero {μ : Measure X} : μ - 0 = μ := by
```
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:136]: Again, I agreed (apart from `sub_zero` that would have to go in `Measure.Sub`). The same question as above needs to be settled, should that be done now  or later in dedicated PR ?

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 9]
```diff
@@ -0,0 +1,256 @@
...
+  measurable := h.measurable.compl
+  le_on := h.ge_on_compl
+  ge_on_compl := by rw [compl_compl]; exact h.le_on
+
+end Measure
+
+namespace SignedMeasure
+
+/-- The set where `μ ≥ ν`, reformulated via nonnegativity of signed measure differences. -/
+class SetWhereLe (μ ν : Measure X) [IsFiniteMeasure μ] [IsFiniteMeasure ν] (s : Set X) : Prop where
```
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:61]: You should use a `structure` instead of a `class` (it works the same way but you can't put it as a typeclass argument).

The extension to vector measures should not change anything to the rest of your code, except that instead of writing `SignedMeasure.SetWhereLe μ ν s` you should write `SignedMeasure.SetWhereLe μ.toSignedMeasure ν.toSignedMeasure s`. It's better to do it now rather than modify right after this PR.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 10]
```diff
@@ -0,0 +1,256 @@
...
+  · ext t ht; simp [restrict_apply _ hs ht]
+  · simp [restrict_not_measurable _ hs]
+
+@[simp]
+theorem restrict_sub :
+    (μ - ν).restrict s = μ.restrict s - ν.restrict s := by
+  simp [sub_eq_add_neg, restrict_add]
+
+@[simp]
+theorem restrict_add_restrict_compl (μ : VectorMeasure X ℝ) {s : Set X} (hs : MeasurableSet s) :
```
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:92]: The generalization is straight-forward, you just need to set the right hypotheses for your proof to remain valid. Moreover here you are adding a new result, the review load is the same whether you make it only for `ℝ` or make it more general.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean]: Done, but maybe not the right way. I had to solve an overloading side effect in simp calls referring to `sub_zero` after I moved it to `Measure/Sub.lean`. Before moving the Measure version of `sub_zero` the concerned simp calls referred to `Algebra.Group.Basic.sub_zero` but after the move, since those calls where done in the Measure namespaces, my own `sub_zero` thm was picked. As you'll notice I solved that by breaking the ambiguity with an explicit reference `@_root_.sub_zero`. Tell me if a better solution is available.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean]: Should be ok now.

File: Mathlib/MeasureTheory/Measure/Sub.lean [hunk 11]
```diff
@@ -56,6 +56,14 @@ theorem zero_sub : 0 - μ = 0 :=
 theorem sub_self : μ - μ = 0 :=
   sub_eq_zero_of_le le_rfl
 
+@[simp]
+theorem sub_zero : μ - 0 = μ := by
```
Comment (urkud) [inline Mathlib/MeasureTheory/Measure/Sub.lean:60]: This lemma should be protected.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 12]
```diff
@@ -0,0 +1,191 @@
...
+
+variable {X : Type*} {mX : MeasurableSpace X}
+variable {s : Set X}
+variable {μ ν : Measure X} [IsFiniteMeasure μ] [IsFiniteMeasure ν]
+
+namespace Measure
+
+/-- The set where `μ ≤ ν`, defined via measurable set and measure restriction comparisons. -/
+structure SetWhereLe (μ ν : Measure X) (s : Set X) : Prop where
+  measurable : MeasurableSet s
```
Comment (urkud) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:45]: I think that this definition should go to `Measure/Decomposition/Hahn`, then we can state Hahn decomposition as `∃ s, SetWhereLE μ ν s`. Or should we call it something like `IsHahnDecomposition`?
```suggestion
structure SetWhereLE (μ ν : Measure X) (s : Set X) : Prop where
  measurableSet : MeasurableSet s
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean]: The tip based on `protected` that @urkud gave me solve that issue. I'll mark that a resolved now.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 12 above)
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:45]: When you propose to move the SetWhereLe in `Measure/Decomposition/Hahn` do you mean as a way to simplify the proof of `hahn_decomposition` ? I kind of like this idea, but maybe that's not what you meant (see also my comments on zulip).

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean]: @EtienneC30, I'll mark this as resolved, since there is another comment from @urkud considering the naming issue.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 12 above)
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean]: Actually, replacing the proof of the unsigned Hahn decomposition is not that simple, because `Measure/Decomposition/Hahn` and other related files include a statement `assert_not_exists MeasureTheory.VectorMeasure`, so that I can't easily rely on the SignedMeasure version to prove the unsigned one. 
Even restating `hahn_decomposition` with `SetWhereLe` while keeping the original proofs has some annoying side effects (it breaks other proofs that rely on it, e.g Lebesgue decomposition). This can be handle of course by tweaking the concerned proofs, but I don't think it's worth it.

I see two options: 
A) we keep JordanSub as it is with the structure SetWhereLe (or rename it IsHahnDecomposition if it's a more adapted name)
B) we remove that structure entirely and rely on `hahn_decomposition` to provide a proof of the main results. 

Option B would require more work, so I would not go down that road unless option A poses serious issues.

Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean]: I finally changed my mind and went for option B to see what it would look like. It's not bad at the end. I renamed the structure as `IsHahnDecomposition` and put it in `Measure/Decomposition/Hahn`, I've also made a reformulation of `hahn_decomposition` in there which relies on that structure. It's called `hahn_decomposition'`. 

Hope that suits you guys.

**Comment by DrLSimon** [comment]
Dear @EtienneC30 and @urkud, I'm wondering whether I'm supposed to take any steps or just wait. I've added the help-wanted level just in case. 

Best

**Comment by DrLSimon** [comment]
No worries : it's just that I was unsure since it's my first PR. I'll just wait then. Thanks.

**Comment by DrLSimon** [comment]
Dear all, any news on this PR ? Best, Loic.

**Review by EtienneC30 — COMMENTED** [review]
Sorry for the delay! Here are some remarks, I didn't have time to go through everything yet.

**Review by EtienneC30 — COMMENTED** [review]
Here are a few more.

**Review by EtienneC30 — COMMENTED** [review]
The last comments! This seems in very good shape to me. I think it would make sense to replace the current `hahn_decomposition` with `isHahnDecomposition`, but this can wait for another PR.

**Comment by DrLSimon** [comment]
> ,

Thank you @EtienneC30! I've applied all your suggestions apart for a few ones that require more care. I'll remove the `awaiting-author` label as soon as it's done. Best,

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 13]
```diff
@@ -0,0 +1,119 @@
...
+  have hmeas := hs.measurableSet
+  have hle : μ.restrict s ≤ ν.restrict s := hs.le_on
+  rw [eq_sub_iff_add_eq, toSignedMeasure_restrict_eq_restrict_toSigned _ _ hmeas]
+  rw [← toSignedMeasure_add]
+  have h_restrict := @restrict_sub_eq_restrict_sub_restrict _ _ ν μ s hmeas
+  simp only [h_restrict]
+  simp only [sub_add_cancel_of_le hle]
+  exact (toSignedMeasure_restrict_eq_restrict_toSigned _ _ hmeas).symm
+
+theorem sub_toSignedMeasure_eq_toSignedMeasure_sub :
```
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:64]: I'll need to check that, but maybe the blank lines are simply not needed. I often put them when drafting the proof for my own convenience, but I guess they can be safely removed if that goes against the guidelines. I'm not fond of comments within code in general and it does not seem to be common in mathlib either.

[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:64]: Comments in proofs are not common in mathlib because they are not necessary and require additional work. However they are far from being discouraged. On the contrary, they make long proofs easier to read, and they are mainly used in such proofs. There are some files where many proofs are commented, for instance [this one](https://github.com/leanprover-community/mathlib4/blob/107ccd2b3a6d866c6e8df4f90ca8313e936e50e1/Mathlib/Topology/Maps/Proper/Basic.lean). If you feel like the blank lines are needed for clarity, then replacing them with comments is considered better from what I discussed with other reviewers. Although in your particular case I think you can safely drop the blank lines.

**Comment by DrLSimon** [comment]
> The last comments! This seems in very good shape to me. I think it would make sense to replace the current `hahn_decomposition` with `isHahnDecomposition`, but this can wait for another PR.

I think I've implemented all changes apart the `isHahnDecomposition` you mention here (because I can't find what you refer to). If necessary ask-again, and I'll make the change. 

BTW I have a silly question: in the docstring of the `JordanSub.lean` file, it would seem logical to add you and @urkud as authors, so  is it ok to do that, or does it goes against the "rule" ?

**Comment by EtienneC30** [comment]
I meant formulate [MeasureTheory.hahn_decomposition](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Decomposition/Hahn.html#MeasureTheory.hahn_decomposition) with your new structure `isHahnDecomposition` which is equivalent to the current statement. But this is not very important and should not be done in this PR in any case.

Regarding the author of the file, this is primarily here to indicate the persons someone should contact if they have questions regarding the content of the file. As you are the one who wrote all the lemmas and fixed the structure of the proof, there is no need to include us as authors, and I would advise against it.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 14]
```diff
@@ -0,0 +1,119 @@
...
+
+  rw [← VectorMeasure.restrict_add_restrict_compl μ.toSignedMeasure hs.measurableSet,
+      ← VectorMeasure.restrict_add_restrict_compl ν.toSignedMeasure hs.measurableSet,
+      ← partition₁, ← partition₂]
+
+  repeat rw [sub_eq_add_neg]
+  abel
+
+
+/-- The Jordan decomposition associated to the pair of mutually singular measures μ-ν and ν-μ . -/
```
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:92]: I think you missed this one.

**Comment by DrLSimon** [comment]
All right. I keep it as is then.

File: Mathlib/MeasureTheory/Measure/Decomposition/Hahn.lean [hunk 15]
```diff
@@ -160,4 +162,33 @@ theorem hahn_decomposition (μ ν : Measure α) [IsFiniteMeasure μ] [IsFiniteMe
...
+  le_on : μ.restrict s ≤ ν.restrict s
+  ge_on_compl : ν.restrict sᶜ ≤ μ.restrict sᶜ
+
+lemma IsHahnDecomposition.compl {μ ν : Measure α } {s : Set α }
+    (h : IsHahnDecomposition μ ν s) : IsHahnDecomposition ν μ sᶜ where
+  measurableSet := h.measurableSet.compl
+  le_on := h.ge_on_compl
+  ge_on_compl := by rw [compl_compl]; exact h.le_on
+
+lemma hahn_decomposition' (μ ν : Measure α ) [IsFiniteMeasure μ] [IsFiniteMeasure ν] :
```
[the remark this answers is not in the document]
Comment (DrLSimon) [reply Mathlib/MeasureTheory/Measure/Decomposition/Hahn.lean]: Oh that's the one I missed: for some reason it was collapsed in my browser. I'll fix that.

File: Mathlib/MeasureTheory/VectorMeasure/Basic.lean [hunk 16]
```diff
@@ -630,6 +631,21 @@ def restrictGm (i : Set α) : VectorMeasure α M →+ VectorMeasure α M where
...
+variable {M : Type*} [AddCommGroup M] [TopologicalSpace M] [IsTopologicalAddGroup M]
+theorem restrict_neg (v : VectorMeasure α M) (i : Set α) :
+    (-v).restrict i = -(v.restrict i) := by
+  by_cases hi : MeasurableSet i
+  · ext j hj; simp [restrict_apply _ hi hj]
+  · simp [restrict_not_measurable _ hi]
+
+theorem restrict_sub (v w : VectorMeasure α M) (i : Set α) :
+    (v - w).restrict i = v.restrict i - w.restrict i := by
+  simp [sub_eq_add_neg, restrict_add, restrict_neg]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Basic.lean:645]: I think you can make `restrict_add`, `restrict_neg` and `restrict_sub` `simp` lemmas.

File: Mathlib/MeasureTheory/VectorMeasure/Basic.lean [hunk 17]
```diff
@@ -630,6 +631,21 @@ def restrictGm (i : Set α) : VectorMeasure α M →+ VectorMeasure α M where
 
 end ContinuousAdd
 
+section
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Basic.lean:634]: Can you give a name to the `section` please? Something like `Neg` or `Sub` for instance.

File: Mathlib/MeasureTheory/VectorMeasure/Basic.lean [hunk 18]
```diff
@@ -829,6 +845,23 @@ end
 
 section
 
+variable {M : Type*} [TopologicalSpace M] [AddCommMonoid M] [T2Space M] [ContinuousAdd M]
+variable (v : VectorMeasure α M) {i : Set α}
+
+@[simp]
+theorem restrict_add_restrict_compl (hi : MeasurableSet i) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Basic.lean:852]: Can you put this just after `restrict_add` please?

File: Mathlib/MeasureTheory/VectorMeasure/Basic.lean [hunk 19]
```diff
@@ -829,6 +845,23 @@ end
...
+    v.restrict i + v.restrict iᶜ = v := by
+  ext A hA
+  rw [add_apply, restrict_apply _ hi hA, restrict_apply _ hi.compl hA,
+    ← of_union _ (hA.inter hi) (hA.inter hi.compl)]
+
+  · simp
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Basic.lean:858]:
```suggestion
    ← of_union _ (hA.inter hi) (hA.inter hi.compl)]
  · simp
```

File: Mathlib/MeasureTheory/VectorMeasure/Basic.lean [hunk 20]
```diff
@@ -1225,6 +1258,18 @@ theorem toSignedMeasure_toMeasureOfZeroLE :
   congr
   simp [hi, ← hm, measureReal_def]
 
+theorem toSignedMeasure_restrict_eq_restrict_toSignedMeasure (hs : MeasurableSet s) :
+    μ.toSignedMeasure.restrict s = (μ.restrict s).toSignedMeasure := by
+  ext A hA
+  simp [VectorMeasure.restrict_apply, toSignedMeasure_apply, hA, hs, restrict_apply]
+
+theorem toSignedMeasure_le_toSignedMeasure_iff :
+    μ.toSignedMeasure ≤ ν.toSignedMeasure ↔ μ ≤ ν   := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Basic.lean:1267]:
```suggestion
    μ.toSignedMeasure ≤ ν.toSignedMeasure ↔ μ ≤ ν := by
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 21]
```diff
@@ -0,0 +1,125 @@
+/-
+Copyright (c) 2025 Loic Simon. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Loic Simon
+-/
+import Mathlib.MeasureTheory.VectorMeasure.Decomposition.Jordan
+import Mathlib.MeasureTheory.Measure.Sub
+import Mathlib.MeasureTheory.Measure.Decomposition.Hahn
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:8]: It's common to sort the imports by alphabetical order, a tiny detail but does not cost anything.
```suggestion
import Mathlib.MeasureTheory.Measure.Decomposition.Hahn
import Mathlib.MeasureTheory.Measure.Sub
import Mathlib.MeasureTheory.VectorMeasure.Decomposition.Jordan
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 22]
```diff
@@ -0,0 +1,125 @@
...
+
+/-!
+# Jordan Decomposition from Signed Measure Subtraction
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:11]:
```suggestion
# Jordan decomposition from signed measure subtraction
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 23]
```diff
@@ -0,0 +1,125 @@
...
+  `(μ - ν).toSignedMeasure - (ν - μ).toSignedMeasure`.
+-/
+
+open scoped ENNReal NNReal
+
+namespace MeasureTheory.Measure
+
+
+noncomputable section
+variable {X : Type*} {mX : MeasurableSpace X}
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:37]:
```suggestion
namespace MeasureTheory.Measure

noncomputable section

variable {X : Type*} {mX : MeasurableSpace X}
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 24]
```diff
@@ -0,0 +1,125 @@
...
+variable {s : Set X}
+variable {μ ν : Measure X}
+
+lemma sub_apply_eq_zero_of_isHahnDecomposition
+    (hs : IsHahnDecomposition μ ν s) : (μ - ν) s = 0 := by
+  rw [← restrict_eq_zero, restrict_sub_eq_restrict_sub_restrict hs.measurableSet]
+  exact sub_eq_zero_of_le hs.le_on
+
+variable  [IsFiniteMeasure μ] [IsFiniteMeasure ν]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:46]:
```suggestion
variable [IsFiniteMeasure μ] [IsFiniteMeasure ν]
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 25]
```diff
@@ -0,0 +1,125 @@
...
+  rw [eq_sub_iff_add_eq, toSignedMeasure_restrict_eq_restrict_toSignedMeasure _ _ hmeas,
+    ← toSignedMeasure_add]
+  simp only [restrict_sub_eq_restrict_sub_restrict, hmeas, sub_add_cancel_of_le hs.le_on]
+  exact (toSignedMeasure_restrict_eq_restrict_toSignedMeasure _ _ hmeas).symm
+
+theorem sub_toSignedMeasure_eq_toSignedMeasure_sub :
+    μ.toSignedMeasure - ν.toSignedMeasure =
+      (μ - ν).toSignedMeasure - (ν - μ).toSignedMeasure := by
+  obtain ⟨s, hs⟩ := exists_isHahnDecomposition μ ν
+  let hsc := hs.compl
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:68]:
```suggestion
  have hsc := hs.compl
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 26]
```diff
@@ -0,0 +1,125 @@
...
+  rw [h₁, h₂'] at partition₂
+  simp only [toSignedMeasure_zero, zero_add] at partition₁ partition₂
+  rw [← VectorMeasure.restrict_add_restrict_compl μ.toSignedMeasure hs.measurableSet,
+    ← VectorMeasure.restrict_add_restrict_compl ν.toSignedMeasure hs.measurableSet,
+    ← partition₁, ← partition₂]
+  repeat rw [sub_eq_add_neg]
+  abel
+
+
+/-- The Jordan decomposition associated to the pair of mutually singular measures μ-ν and ν-μ . -/
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:92]:
```suggestion
  abel

/-- The Jordan decomposition associated to the pair of mutually singular measures μ-ν and ν-μ . -/
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:92]: Still there.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 27]
```diff
@@ -0,0 +1,125 @@
...
+def jordanDecompositionOfToSignedMeasureSub
+    (μ ν : Measure X) [IsFiniteMeasure μ] [IsFiniteMeasure ν] : JordanDecomposition X where
+  posPart := μ - ν
+  negPart := ν - μ
+  mutuallySingular := mutually_singular_measure_sub
+
+lemma jordanDecompositionOfToSignedMeasureSub_posPart :
+    (jordanDecompositionOfToSignedMeasureSub μ ν).posPart = μ - ν := by
+      trivial
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:101]: This is more idiomatic.
```suggestion
    (jordanDecompositionOfToSignedMeasureSub μ ν).posPart = μ - ν := rfl
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 28]
```diff
@@ -0,0 +1,125 @@
...
+
+lemma jordanDecompositionOfToSignedMeasureSub_negPart :
+    (jordanDecompositionOfToSignedMeasureSub μ ν).negPart = ν - μ := by
+      trivial
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:105]:
```suggestion
    (jordanDecompositionOfToSignedMeasureSub μ ν).negPart = ν - μ := rfl
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 29]
```diff
@@ -0,0 +1,125 @@
...
+
+lemma jordanDecompositionOfToSignedMeasureSub_toSignedMeasure :
+    (jordanDecompositionOfToSignedMeasureSub μ ν).toSignedMeasure =
+    μ.toSignedMeasure - ν.toSignedMeasure := by
+      unfold JordanDecomposition.toSignedMeasure
+      simp [jordanDecompositionOfToSignedMeasureSub_posPart]
+      simp [jordanDecompositionOfToSignedMeasureSub_negPart]
+      rw [← sub_toSignedMeasure_eq_toSignedMeasure_sub]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:113]: You are using non-terminal `simp`s here. Here is a better proof:
```suggestion
  simp_rw [JordanDecomposition.toSignedMeasure, jordanDecompositionOfToSignedMeasureSub_posPart,
    jordanDecompositionOfToSignedMeasureSub_negPart, ← sub_toSignedMeasure_eq_toSignedMeasure_sub]
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 30]
```diff
@@ -0,0 +1,125 @@
...
+
+/-- The Jordan decomposition of `μ.toSignedMeasure - ν.toSignedMeasure` is `(μ - ν, ν - μ)`. -/
+@[simp]
+theorem toJordanDecomposition_toSignedMeasure_sub :
+    (μ.toSignedMeasure - ν.toSignedMeasure).toJordanDecomposition =
+      jordanDecompositionOfToSignedMeasureSub μ ν := by
+  apply JordanDecomposition.toSignedMeasure_injective
+  rw [SignedMeasure.toSignedMeasure_toJordanDecomposition]
+  rw [jordanDecompositionOfToSignedMeasureSub_toSignedMeasure]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:122]:
```suggestion
  rw [SignedMeasure.toSignedMeasure_toJordanDecomposition,
    jordanDecompositionOfToSignedMeasureSub_toSignedMeasure]
```

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean [hunk 31]
```diff
@@ -0,0 +1,125 @@
...
+
+end
+end MeasureTheory.Measure
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/JordanSub.lean:125]:
```suggestion
end

end MeasureTheory.Measure
```

**Review by EtienneC30 — COMMENTED** [review]
Some more comments. Note there is still a previous unresolved conversation ([this one](https://github.com/leanprover-community/mathlib4/pull/23500#discussion_r2105876373)).

File: Mathlib/MeasureTheory/VectorMeasure/Basic.lean (hunk 18 above)
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Basic.lean]: I moved the whole section and named it `Partition`

File: Mathlib/MeasureTheory/VectorMeasure/Basic.lean (hunk 16 above)
Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Basic.lean:664]: Actually setting `restrict_neg` as @simp kind of backfired as it creates "simp normal form" conflict with `neg_le_neg_iff`.  If I understand, making `restrict_neg` a simp theorem makes the `neg_le_neg_iff` unnecessary as a simp theorem. So either, we remove @simp for one or the other. Is my understanding correct ? In any case, what do you propose ?

Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Basic.lean:664]: Dear @EtienneC30, just so you know, I posted a message on [zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/First.20contribution.3A.20MeasureTheory.2FDecomposition.2FJordanSub/near/523732373) because I can't push to my branch anymore (nor can I edit it the github web interface).

Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Basic.lean:664]: Dear reviewers (@EtienneC30 @grunweg and @urkud) I now understand the situation given the response I got on zulip. Mathlib is moving to a decentralized worflow, where PR should be done through forks. This is too much work for me right now, especially given that to my understanding this PR is quite close to be ready for merging. 

Would you be ok to make the changes you see fit on your own in this repo and merge the branch ? If need be I can continue answering on your messages on this PR.

Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Basic.lean:664]: Update: apparently my write access were removed by mistake. I've received a new invitation to get it back. I'm able to push again.

Comment (DrLSimon) [reply Mathlib/MeasureTheory/VectorMeasure/Basic.lean:664]: > Actually setting `restrict_neg` as @simp kind of backfired as it creates "simp normal form" conflict with `neg_le_neg_iff`. If I understand, making `restrict_neg` a simp theorem makes the `neg_le_neg_iff` unnecessary as a simp theorem. So either, we remove @simp for one or the other. Is my understanding correct ? In any case, what do you propose ?

After thinking about it a bit, I've decided to remove the `@simp` for `neg_le_neg_iff`. That indeed solves the previously mentioned conflict. Tell me if that was not the best move in that situation.

**Comment by EtienneC30** [comment]
I think this is finally ready! I just pushed a tiny spacing correction but that's all. Thanks for your patience @DrLSimon, I'm sorry my reviews were so irregular.
maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by DrLSimon** [comment]
> I think this is finally ready! I just pushed a tiny spacing correction but that's all. Thanks for your patience @DrLSimon, I'm sorry my reviews were so irregular. maintainer merge

Thank you for your dedication ! Best
